US07425639B2
Stage 1 Preparation of N-Phenylisonicotinamide
Into a 4-necked RBF equipped with an overhead stirrer, J-Kem internal temperature probe, a reflux condensor and an addition funnel was placed isonicotinoyl chloride-hydrochloride (50 g, 0.28 mol). To this solid was added 500 ml of 1,2-dichloroethane and the slurry cooled to 0° C. using an ice/water bath. To the addition funnel was added a mixture of the aniline (31.4 g, 0.34 mol) and Et3N (59.5 g, 0.59 mol) in 50 ml of 1,2-dichloroethane. This mixture was slowly added to the slurry over 25 min. A slight exotherm was observed from 2.4° C. to 15° C. after the addition of the first 10 ml. The reaction mixture was observed to cool down slowly. The reaction mixture turned yellow and became heterogeneous. After 30 min., the ice bath was removed and the reaction heated to reflux for 1.5 h. Deionized water, 100 ml, was added and an off-white precipitate formed. The precipitate was collected by filtering through paper on a Buchner funnel and placed in a drying oven (60° C.) overnight to give 45 g (81% th) of an off-white crystalline solid.

reactant | isonicotinoyl chloride-hydrochloride | 0.28 mol, 50 g | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | aniline | 0.34 mol, 31.4 g | NC1=CC=CC=C1 | C6H7N
reactant | Et3N | 0.59 mol, 59.5 g | CCN(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 500 ml | ClCCCl | C2H4Cl2
product | N-Phenylisonicotinamide | C1(=CC=CC=C1)NC(C1=CC=NC=C1)=O | C12H10N2O
